US09085582B2
(S)-2-(6-(4-Chlorophenyl)-8-(4-formylphenyl)-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide (for a preparation see Intermediate 6) (75 mg) was dissolved in DCM (5 ml). Dimethylamine hydrochloride (18.42 mg) and acetic acid (8.62 μl) were added and the reaction mixture was stirred for 5 min. Sodium triacetoxyborohydride (160 mg) was added and the reaction mixture was stirred at room temperature, under nitrogen, for 5 h. Saturated sodium hydrogen carbonate solution (5 ml) was added and the reaction mixture was stirred for 10 min. The organic phase was separated and the saturated sodium hydrogen carbonate solution was extracted with DCM (10 ml). The DCM extracts were combined, dried and the solvent was evaporated. The residue was chromatographed (0-15% methanol:DCM), triturated with diethyl ether and dried in a vacuum dessicator overnight to give (S)-2-(6-(4-chlorophenyl)-8-(4-((dimethylamino)methyl)phenyl)-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide (48.2 mg) as a white solid. LCMS (formate): MH+ 527/529, RT 0.66 min

reactant | (S)-2-(6-(4-Chlorophenyl)-8-(4-formylphenyl)-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C3=CC=C(C=C3)C=O)C(=NN2)C)CC(=O)NCC | C28H24ClN5O2
reactant | Dimethylamine hydrochloride | 18.42 mg | Cl.CNC
reactant | Sodium triacetoxyborohydride | 160 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 8.62 μl | C(C)(=O)O | C2H4O2
product | (S)-2-(6-(4-chlorophenyl)-8-(4-((dimethylamino)methyl)phenyl)-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide | 48.2 mg | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C3=CC=C(C=C3)CN(C)C)C(=NN2)C)CC(=O)NCC | C30H31ClN6O
